US05445762
1-(Tert.-butylcarbonyl)-1-aza-4,7,10,13,16,19-hexaoxacycloheneicosane
Analogously to Example 14 from 1 -aza-4,7,10,13,16,19-hexaoxacycloheneicosane and pivalyl chloride.

reactant | 1 -aza-4,7,10,13,16,19-hexaoxacycloheneicosane | N1CCOCCOCCOCCOCCOCCOCC1 | C14H29NO6
reactant | pivalyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 1-(Tert.-butylcarbonyl)-1-aza-4,7,10,13,16,19-hexaoxacycloheneicosane | C(C)(C)(C)C(=O)N1CCOCCOCCOCCOCCOCCOCC1 | C19H37NO7
